US07521480B2
2-[3-(3-Bromo-phenyl)-ureido]-4-chloro-5-methyl-benzenesulfonic acid (Compound 1a)
2-Amino-4-chloro-5-methyl-benzenesulfonic acid (665 mg, 3.0 mmol) was suspended in 30 ml dry THF and 1-bromo-3-isocyanato-benzene (624 mg, 3.15 mmol) was added. Upon addition of triethylamine (354 mg, 3.15 mmol) the suspension cleared and became a solution. The solution was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate (150 ml) and washed with diluted aqueous hydrochloric acid. The organic phase was dried over sodium sulphate and reduced to dryness under vacuum. The title compound was recrystallised from ethyl acetate/heptane to give 820 mg (65%) of white crystals (m.p. 275° C.; decomposition).

reactant | 2-Amino-4-chloro-5-methyl-benzenesulfonic acid | 3.0 mmol, 665 mg | NC1=C(C=C(C(=C1)Cl)C)S(=O)(=O)O | C7H8ClNO3S
reactant | 1-bromo-3-isocyanato-benzene | 3.15 mmol, 624 mg | BrC1=CC(=CC=C1)N=C=O | C7H4BrNO
reactant | triethylamine | 3.15 mmol, 354 mg | C(C)N(CC)CC | C6H15N
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 2-[3-(3-Bromo-phenyl)-ureido]-4-chloro-5-methyl-benzenesulfonic acid | 820 mg, 65% | BrC=1C=C(C=CC1)NC(NC1=C(C=C(C(=C1)Cl)C)S(=O)(=O)O)=O | C14H12BrClN2O4S
